US05659040
5-Bromo-3-(4-hydroxy-1-methyl-4-piperidinyl)-1H-indole
A mixture of 5-bromoindole (490 g), 1-methyl-4-piperidone (339 mL) and potassium hydroxide (15 g) in IMS (3 L) was stirred under nitrogen at room temperature for 24 hrs. The mixture was cooled to 7° and filtered. The filter cake was washed with ethanol (300 mL) followed by water (800 mL) to give an off-white powder which was dried in vacuo at 50° for 24 hr (563.8 g, 73% of theory).

reactant | 5-bromoindole | 490 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 1-methyl-4-piperidone | 339 mL | CN1CCC(CC1)=O | C6H11NO
reactant | potassium hydroxide | 15 g | [OH-].[K+]
product | 5-Bromo-3-(4-hydroxy-1-methyl-4-piperidinyl)-1H-indole | BrC=1C=C2C(=CNC2=CC1)C1(CCN(CC1)C)O | C14H17BrN2O
